US06399223B1
Next, the dihydro-compound of furan and tetrachloro-p-benzoquinone (chloranyl) in toluene were heated under reflux to effect dehydrogenation, yielding 1,3,5,6-tetraphenylisobenzofuran.

reactant | furan | O1C=CC=C1 | C4H4O
reactant | tetrachloro-p-benzoquinone | ClC1=C(C(C(=C(C1=O)Cl)Cl)=O)Cl | C6Cl4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,3,5,6-tetraphenylisobenzofuran | C1(=CC=CC=C1)C=1OC(=C2C=C(C(=CC12)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C32H22O
